US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-2-thiophenecarboxamide [72]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (50 mg) and commercially available 2-thiophenecarboxylic acid (46 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (99 mg) was added, and the admixture was stirred at room temperature for 62 hours. The reaction mixture was then purified in the same manner as described in Example 51 to obtain 37 mg of the title compound (yield: 54%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 2-thiophenecarboxylic acid | 46 mg | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 99 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-2-thiophenecarboxamide | 37 mg, yield: 54% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C=1SC=CC1 | C22H18N2O4S
